US04419352
(c) Disodium 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate
6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid (0.629 g) suspended in water was treated with sodium bicarbonate (0.292 g) and stirred until complete dissolution occurred. The solution was filtered then treated with acetone. The precipitated product was collected by filtration and dried to give (0.6 g) of the title compound.

reactant | 6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid | 0.629 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)O)=O)CCC)C(=O)O | C17H12ClNO6
reactant | sodium bicarbonate | 0.292 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | Disodium 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 0.6 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)[O-])=O)CCC)C(=O)[O-].[Na+].[Na+] | InChI=1S/C17H12ClNO6.2Na/c1-2-3-7-14-8(10(18)5-11(19-14)16(21)22)4-9-12(20)6-13(17(23)24)25-15(7)9;;/h4-6H,2-3H2,1H3,(H,21,22)(H,23,24);;/q;2*+1/p-2
